US05747540
To a solution of t-butylamine (1.1 ml, 10.7 mmol) in 13 ml toluene, cooled to -30° C. was added bromine (0.28 ml, 5.35 mmol). The mixture was cooled to -70° C. and was treated with 3-phenoxyphenol (2.0 g, 10.7 mmol) dissolved in 2 ml CH2Cl2. The reaction was stirred to ambient temperature over 5 h, quenched with water and diluted with CH2Cl2. The organic phase was washed with water and brine and dried over Na2SO4. Column chromatography (SiO2 ; 5:95 EtOAc/Hex) afforded 380 mg (14%) of 2-bromo-5-phenoxyphenol.

reactant | t-butylamine | 10.7 mmol, 1.1 ml | C(C)(C)(C)N | C4H11N
reactant | bromine | 5.35 mmol, 0.28 ml | BrBr | Br2
reactant | 3-phenoxyphenol | 10.7 mmol, 2.0 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
solvent | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-phenoxyphenol | 380 mg, 14% | BrC1=C(C=C(C=C1)OC1=CC=CC=C1)O | C12H9BrO2
